US04431735
Reaction--Ten grams of the enzyme adsorbed on celite were added to 300 ml of 1% rifamycin B solution (10 mM phosphate buffer, pH 8.5). The conversion to rifamycin S was completed in 7 hours of reaction at 40° C. with aeration and agitation. The celite filter cake recovered by filtration on a sintered glass was washed with 200 ml of methanol. The final methanolic aqueous solution of rifamycin S was warmed to 50° C. in order to solubilize completely the residual rifamycin S precipitate. 30 ml of 5% ascorbic acid solution in water was added thereto dropwisely while continuous stirring. The purpose color of rifamycin S was gradually changed to the deep red color of rifamycin SV. After adjusting the final pH to 4.0, the methanol was completely evaporated using suction evaporator at 40° C. Afte chilling the final solution at 4° C. for 2 days, the rifamycin SV crystals were recovered by filtration. 2.4 gr of deep yellowish rifamycin SV crystals were obtained after drying over sodium sulfate (yield=87%).

reactant | rifamycin S | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
solvent | rifamycin B | 10 mM, 300 ml, pH 8.5 | CC1=C(C2=C3C(=CC(=C2O)NC(=O)/C(=C\C=C\C(C(C(C(C(C(C(C(/C=C/OC4(C(=O)C3=C1O4)C)OC)C)OC(=O)C)C)O)C)O)C)/C)OCC(=O)NC=5C=CC(=CC5)I)O | C45H53IN2O13
product | rifamycin SV | 2.4 gr | CC1=C(C2=C3C(=CC(=C2O)NC(=O)/C(=C\C=C\[C@@H]([C@@H]([C@H]([C@H]([C@H]([C@@H]([C@@H]([C@H](/C=C/O[C@@]4(C(=O)C3=C1O4)C)OC)C)OC(=O)C)C)O)C)O)C)/C)O)O | C37H47NO12
